US03987047
1,2,4,5-Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester 6-oxide was prepared analogous to Example 111 from 1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester and hydrogen peroxide.

reactant | 1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C17H20N2O2
reactant | hydrogen peroxide | OO | H2O2
product | 1,2,4,5-Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester 6-oxide | Yield: 66% | C(C)OC(=O)N1CCC2=[N+](C=3C=CC=CC3C(=C2CC1)C)[O-] | C17H20N2O3
